US08076345B2
B) (R)-tert-butyl 3-(benzyl((S)-1-phenylethyl)amino)-3-(6-methylpyridin-3-yl)propanoate
To a solution of (S)—N-benzyl-1-phenylethanamine (3.64 g, 17.26 mmol) in THF (40 mL) at −70° C., was added dropwise n-BuLi (1.6 M, 14.7 mmol) over a period of 30 min and stirred further. After 1 h, a solution of (E)-tert-butyl 3-(6-methylpyridin-3-yl)acrylate (2.7 g, 12.3 mmol) in THF was added slowly to the above mixture and stirred further. After 2 h, sat. NH4Cl solution was added to the reaction mixture and extracted with EtOAc (3×). The combined organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo to afford a residue. Purification of the residue by column chromatography (Neutral Al2O3, Et2O/Pet ether 5:95) afforded the title compound.

reactant | (S)—N-benzyl-1-phenylethanamine | 17.26 mmol, 3.64 g | C(C1=CC=CC=C1)N[C@@H](C)C1=CC=CC=C1 | C15H17N
reactant | n-BuLi | 14.7 mmol, 1.6 M | [Li]CCCC
reactant | (E)-tert-butyl 3-(6-methylpyridin-3-yl)acrylate | 12.3 mmol, 2.7 g | CC1=CC=C(C=N1)/C=C/C(=O)OC(C)(C)C | C13H17NO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-(benzyl((S)-1-phenylethyl)amino)-3-(6-methylpyridin-3-yl)propanoate | C(C1=CC=CC=C1)N([C@H](CC(=O)OC(C)(C)C)C=1C=NC(=CC1)C)[C@@H](C)C1=CC=CC=C1 | C28H34N2O2
